US05932601
In substantially the same manner as in Working Example 9, 5-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2,4-oxazolidinedione was reacted with 4-chloromethyl-5-methyl-2-phenyloxazole to obtain 5-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-methoxyphenyl]ethyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-chloroform to give colorless prisms, m.p.194-195° C.

reactant | 5-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2,4-oxazolidinedione | OC1=C(C=C(C=C1)CCC1C(NC(O1)=O)=O)OC | C12H13NO5
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
product | 5-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-methoxyphenyl]ethyl]-2,4-oxazolidinedione | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=C(C=C(C=C1)CCC1C(NC(O1)=O)=O)OC | C23H22N2O6
